US06774136B2
The reaction of 17.9 ml (0.200 mol) morpholine and 10.1 ml (0.100 mol) benzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 6.0 ml (0.100 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 10.1 g (corresponding to 48% of the yield calculated by theory) 4-benzylidene-morpholin-4-ium chloride.

reactant | morpholine | 0.200 mol, 17.9 ml | N1CCOCC1 | C4H9NO
reactant | benzaldehyde | 0.100 mol, 10.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetyl chloride | 0.100 mol, 6.0 ml | C(C)(=O)Cl | C2H3ClO
product | 4-benzylidene-morpholin-4-ium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCOCC1 | InChI=1S/C11H14NO.ClH/c1-2-4-11(5-3-1)10-12-6-8-13-9-7-12;/h1-5,10H,6-9H2;1H/q+1;/p-1
